US06482829B2
(S)-8-(3,5-Bis-trifluoromethyl-benzoyl)-3-(5-oxo-pyrrolidin-2-yl-methyl)-1-phenyl-1,3,8-triaza-spiro[4.5]decane-2,4-dione
The title compound, MS: m/e=583.1 (M+), was prepared in accordance with the general method of example 121 from 8-(3,5-bis-trifluoromethyl-benzoyl)-1-phenyl-1,3,8-triaza-spiro[4.5]decane-2,4-dione and (S)-5-(hydroxymethyl)-2-pyrrolidinone.

reactant | 8-(3,5-bis-trifluoromethyl-benzoyl)-1-phenyl-1,3,8-triaza-spiro[4.5]decane-2,4-dione | FC(C=1C=C(C(=O)N2CCC3(C(NC(N3C3=CC=CC=C3)=O)=O)CC2)C=C(C1)C(F)(F)F)(F)F | C22H17F6N3O3
reactant | (S)-5-(hydroxymethyl)-2-pyrrolidinone | OC[C@@H]1CCC(N1)=O | C5H9NO2
product | (S)-8-(3,5-Bis-trifluoromethyl-benzoyl)-3-(5-oxo-pyrrolidin-2-yl-methyl)-1-phenyl-1,3,8-triaza-spiro[4.5]decane-2,4-dione | FC(C=1C=C(C(=O)N2CCC3(C(N(C(N3C3=CC=CC=C3)=O)C[C@H]3NC(CC3)=O)=O)CC2)C=C(C1)C(F)(F)F)(F)F | C27H24F6N4O4
